US09353108B2
E) (2-Cyclopropyl-5-ethoxy-3′-fluorobiphenyl-4-yl)methanol
A mixture of methyl 5-cyclopropyl-2-ethoxy-4-(((trifluoromethyl)sulfonyl)oxy)benzoate (2.50 g), (3-fluorophenyl)boronic acid (1.90 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (0.418 g), a 2 M aqueous sodium carbonate solution (10.2 mL), tris(dibenzylideneacetone)dipalladium(0) (435 mg), and toluene (20 mL) was stirred overnight at 100° C. in an argon atmosphere. Water was added to the reaction mixture, and then, the mixture was filtered through celite, followed by extraction with ethyl acetate. The organic layer was passed through a short silica gel (NH) column, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate). A THF (10 mL) solution of the obtained purified product was added to a THF (20 mL) suspension of lithium aluminum hydride (500 mg) under ice cooling in a nitrogen atmosphere. After stirring at the same temperature as above for 30 minutes, water (0.5 mL) and a 15% aqueous sodium hydroxide solution (0.5 mL) were added thereto, and the mixture was stirred for 5 minutes. Water (1.5 mL) was further added to the reaction mixture, and the mixture was stirred for 30 minutes and then filtered. The filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (1.80 g).

reactant | methyl 5-cyclopropyl-2-ethoxy-4-(((trifluoromethyl)sulfonyl)oxy)benzoate | 2.50 g | C1(CC1)C=1C(=CC(=C(C(=O)OC)C1)OCC)OS(=O)(=O)C(F)(F)F | C14H15F3O6S
reactant | (3-fluorophenyl)boronic acid | 1.90 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.418 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 10.2 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 435 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (2-Cyclopropyl-5-ethoxy-3′-fluorobiphenyl-4-yl)methanol | 1.80 g | C1(CC1)C1=C(C=C(C(=C1)CO)OCC)C1=CC(=CC=C1)F | C18H19FO2
